US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-ethyl-N-(2-hydroxy-ethyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid with 2-ethylamino-ethanol

reactant | [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-ethyl-N-(2-hydroxy-ethyl)-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CCO)CC)C1=CC(=CC=C1)N(C)C | C24H35N3O4S
